US06596746B1
B. 2-tert-Butoxycarbonyloxyamino-thiazole-5-carboxylic Acid
A stirred solution of ethyl-2-tert-butoxycarbonyloxyamino-4-methyl-thiazole-5-carboxylate (1.1 g, 4.2 mmol) in tetrahydrofuran-methanol (80 mL, 1:1) was treated with a 6N aq. NaOH solution (20 mL, 120 mmol). The mixture was stirred at rt for 24 h. Most of THF and methanol were removed by distillation under reduced pressure and the aq. Solution was acidified with 6 N aq. HCl solution (22 mL). The precipitated solid was filtered, washed with water and ether, air dried followed by drying in vacuo to obtain the title acid (940 mg, 96%) as an off-white solid.

reactant | ethyl-2-tert-butoxycarbonyloxyamino-4-methyl-thiazole-5-carboxylate | 4.2 mmol, 1.1 g | C(C)OC(=O)C1=C(N=C(S1)NOC(=O)OC(C)(C)C)C | C12H18N2O5S
reactant | NaOH | 120 mmol, 6N, 20 mL | [OH-].[Na+]
solvent | tetrahydrofuran-methanol | 80 mL | O1C(CCC1)CO | C5H10O2
product | 2-tert-Butoxycarbonyloxyamino-thiazole-5-carboxylic Acid | C(C)(C)(C)OC(=O)ONC=1SC(=CN1)C(=O)O | C9H12N2O5S
